US05565565
A mixture of 10 gms (66 mmoles) of guanine, 50 ml of hexamethyldisilazane, and 0.4 gms (3 mmmol) of ammonium sulfate was heated to 115°-118° C. for 18 hours. The ammonia gas was removed as it was formed. After 18 hours of heating, a solution was formed indicating the completion of silylation. To this solution was added 15 gms (85 mmol) of 2-oxa-1,4-butanediol diacetate and 0.1 ml of trimethylsilyl triftriflate. The mixture was heated to 130° C. for a period of 4.5 hours. The solution was cooled to 50° C. and 10 ml of water dissolved in 100 ml of acetone was added. The mixture was heated to reflux and a precipitate was formed immediately. The mixture was cooled and the solid was collected by filtration to yield 10.1 g (58% yield) of 9-(2-acetoxyethoxy)methylguanine, with a 13:1 ratio of N-9 to N-7 isomer. Characteristic analytical data are as follows: 1H NMR (DMSO-d6) δ1.90 (3H, singlet, --OAc) , 3.58 (2H, multiplet, --OCH2 --) , 4.0 (2H, multiplet, --CH2OAc) , 5.25 (2H, singlet, --NCH2O--), 6.5 (2H, br singlet, --NH2), 7.75 (1H, singlet, --N=CH--N--).

reactant | guanine | 66 mmoles, 10 gms | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | hexamethyldisilazane | 50 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 2-oxa-1,4-butanediol diacetate | 85 mmol, 15 gms | C(C)(=O)OCOCCOC(C)=O | C7H12O5
reactant | water | 10 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | ammonium sulfate | 0.4 gms | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | 9-(2-acetoxyethoxy)methylguanine | 10.1 g, 58% yield | C(C)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C10H13N5O4
